US07851493B2
To a solution of 1.15 g of 6-benzyloxy-2-chloro-3-oxo-hexanoic acid ethyl ester in 10 ml of ethanol was added 0.932 g of 4-(trifluoromethyl)thiobenzamide. The reaction mixture was refluxed overnight. The solvent was removed under reduced pressure. The resulting residue was taken into ethyl acetate, washed with water. The aqueous layer was separated and extracted with ethyl acetate. The combined organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (heptane 90/ethyl acetate 10) to give 1.15 g of 4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester as a colorless liquid.

reactant | 6-benzyloxy-2-chloro-3-oxo-hexanoic acid ethyl ester | 1.15 g | C(C)OC(C(C(CCCOCC1=CC=CC=C1)=O)Cl)=O | C15H19ClO4
reactant | 4-(trifluoromethyl)thiobenzamide | 0.932 g | FC(C1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 1.15 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCOCC1=CC=CC=C1 | C23H22F3NO3S
